USRE029843
Preparation of 2-Methyl-5-Methoxy-4-Isobutylthiazole
A one-liter three necked flash equipped with a stirrer, condenser, and heating mantle is charged with 10 g (0.052 mole) of N-acetylleucine methyl ester and 14.5 g (0.062 mole) of phosphorus pentasulfide in 250 ml of chloroform, and the reaction mixture is refluxed for 24 hours while care is taken to exclude moisture. The reaction mixture is then cooled and made basic with 200 ml of 10% potassium hydroxide.

reactant | N-acetylleucine methyl ester | 0.052 mole, 10 g | COC([C@@H](NC(C)=O)CC(C)C)=O | C9H17NO3
reactant | phosphorus pentasulfide | 0.062 mole, 14.5 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | potassium hydroxide | 200 ml | [OH-].[K+]
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Methyl-5-Methoxy-4-Isobutylthiazole | CC=1SC(=C(N1)CC(C)C)OC | C9H15NOS
